US07572809B2
Similar procedure as described in example 343a was used, starting from 2,3-Dihydro-benzo[1,4]dioxine-5-carbaldehyde and malonic acid to give 3-(2,3-Dihydro-benzo[1,4]dioxin-5-yl)-acrylic acid. LC-MS: m/e 207 (MH+).

reactant | 2,3-Dihydro-benzo[1,4]dioxine-5-carbaldehyde | O1CCOC2=C1C=CC=C2C=O | C9H8O3
reactant | malonic acid | C(CC(=O)O)(=O)O | C3H4O4
product | 3-(2,3-Dihydro-benzo[1,4]dioxin-5-yl)-acrylic acid | O1CCOC2=C1C=CC=C2C=CC(=O)O | C11H10O4
